US08071584B2
Ethyl 5-Bromo-3-[2-(1-methylethyl)tetrahydro-2H-thiopyran-4-yl]-1H-indole-7-carboxylate
2-(1-methylethyl)tetrahydro-2H-thiopyran-4-one (1.185 g, 7.49 mmol) was dissolved in dry dichloromethane (DCM) (20 mL), cooled in an ice bath to ca 0° C., and stirred under argon. Trimethylsilyl trifluoromethanesulfonate (2.71 mL, 14.98 mmol) was added dropwise over 10 minutes, and dry DCM (5 mL) was used to wash in the last of the trimethylsilyltrifluoromethanesulfonate. To this mixture was added dropwise, a solution of ethyl 5-bromo-1H-indole-7-carboxylate (2.145 g, 8 mmol) in dry DCM (20 mL), and then an additional portion of dry DCM (5 mL) was used to wash the last of ethyl 5-bromo-1H-indole-7-carboxylate into the reaction. Triethylsilane (4.77 mL, 30.0 mmol) was added to the reaction in one portion. The resulting mixture was stirred 2 h at 0° C., and left stirring at 23° C. overnight. The reaction was diluted with saturated aqueous sodium bicarbonate, and the resulting biphasic mixture was extracted with DCM, dried (MgSO4) and the DCM was removed in vacuo to give the title compound as a dark yellow oil.

reactant | 2-(1-methylethyl)tetrahydro-2H-thiopyran-4-one | 7.49 mmol, 1.185 g | CC(C)C1SCCC(C1)=O | C8H14OS
reactant | Trimethylsilyl trifluoromethanesulfonate | 14.98 mmol, 2.71 mL | FC(S(=O)(=O)O[Si](C)(C)C)(F)F | C4H9F3O3SSi
reactant | ethyl 5-bromo-1H-indole-7-carboxylate | 8 mmol, 2.145 g | BrC=1C=C2C=CNC2=C(C1)C(=O)OCC | C11H10BrNO2
reactant | Triethylsilane | 30.0 mmol, 4.77 mL | C(C)[SiH](CC)CC | C6H16Si
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
solvent | DCM | 20 mL | ClCCl | CH2Cl2
solvent | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | DCM | 5 mL | ClCCl | CH2Cl2
solvent | DCM | 5 mL | ClCCl | CH2Cl2
product | Ethyl 5-Bromo-3-[2-(1-methylethyl)tetrahydro-2H-thiopyran-4-yl]-1H-indole-7-carboxylate | BrC=1C=C2C(=CNC2=C(C1)C(=O)OCC)C1CC(SCC1)C(C)C | C19H24BrNO2S
